US05132305
Stage A: 3-Methyl-6-(3-Chloropropionyl)Benzoxazolinone
The flask is equipped with a reflux condenser and taken to an oil bath at a temperature in the region of 40°-45° C. 0.04 mole of 3-methylbenzoxazolinone and 0.44 mole of 3-chloropropionic acid chloride are introduced. The mixture is heated to a temperature in the region of 75° C. for 2 hours 30 minutes. After cooling, the reaction mixture is poured into 300 g of ice, acidified with concentrated hydrochloric acid and stirred for 1 hour 30 minutes. The precipitate obtained is drained, washed with water and dried. The product is recrystallized in ethanol.

reactant | 3-methylbenzoxazolinone | 0.04 mole | CN1C(OC2=C1C=CC=C2)=O | C8H7NO2
reactant | 3-chloropropionic acid chloride | 0.44 mole | ClCCC(=O)Cl | C3H4Cl2O
reactant | hydrochloric acid | Cl | ClH
product | 3-Methyl-6-(3-Chloropropionyl)Benzoxazolinone | CN1C(OC2=C1C=CC(=C2)C(CCCl)=O)=O | C11H10ClNO3
